US07220854B1
5-formyl-2′-deoxyuridine prepared according to Mertes and Shipchandler, J. Heterocyclic Chem. 1, 751 (1970). 5-hydroxymethyluricil (1 mmol) dissolved in 20 ml dimethylsulfonate was heated at 100° C. with manganese dioxide (2.5 mmol) for 15 minutes. The solvent was evaporated at reduced pressure. The residue was taken up in hot ethanol and recrystallized from ethanol to yield 5-formyluracil, 5-formyluracil (0.10 g) was silylated and dissolved in dry acetonitrile (2.5 ml). 2-deoxy-3,5-di-0-p-toluyl-D-ribofuranosyl chloride (Bhat, Syn. Proc. in Nucleic Acid Chem., Vol. 1, p. 521 (1968) (0.22 g) and molecular sieves (0.2 g) were added, and the mixture stirred at 25° C. for 40 hours under anhydrous conditions. The mixture was filtered and evaporated. The resulting oil was treated with anhydrous ethanol (2 ml) and chromatographed on silica gel to obtain the partially pure anomer which was recrystallized from ethanol (M.P. 195°–196° C.) The toluyl groups were removed by reaction of the product in methanol benzene with sodium methoxide. The mixture was neutralized with Dowex 50 (H+). 5-formyl-2′-deoxyuridine was recrystallized from ethanol M.P. 175°–176° C.

reactant | 5-formyl-2′-deoxyuridine | C(=O)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C10H12N2O6
solvent | dimethylsulfonate | 20 ml | COS(=O)(=O)C | C2H6O3S
catalyst | manganese dioxide | 2.5 mmol | [O-2].[O-2].[Mn+4]
product | 5-formyluracil | 0.10 g | C(=O)C=1C(NC(NC1)=O)=O | C5H4N2O3
